US06982274B2
1-(2,2-Diethoxyethoxy)-4-fluorobenzene
To a solution of 10.0 g of 4-fluorophenol and 16.1 ml of bromoacetaldehyde diethylacetal in 100 ml dimethylformaldehyde was added 18.5 g of potassium carbonate at room temperature, and the mixture was stirred at 120° C. for two days. The reaction mixture was filtered through Celite, and the filtrate was diluted with ethyl acetate. The organic layer was sequentially washed with saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=0:10 to 1:20), to give 17.3 g of the title compound as a colorless oil.

reactant | 4-fluorophenol | 10.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | bromoacetaldehyde diethylacetal | 16.1 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium carbonate | 18.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformaldehyde | 100 ml | CC(=O)C | C3H6O
product | 1-(2,2-Diethoxyethoxy)-4-fluorobenzene | 17.3 g | C(C)OC(COC1=CC=C(C=C1)F)OCC | C12H17FO3
